US04525478
To a solution of diethyl 2-methyl-4-(2-nitrophenyl)-6-(2-hydroxyethyl)iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate (1.2 g) in 95% ethanol (15 ml) was added sodium borohydride (115 mg) and stirred overnight at room temperature. The resultant mixture was weakly acidified with dilute hydrochloric acid and the ethanol was removed from the mixture. The residue was basified with an aqueous solution of sodium bicarbonate and then extracted with ethyl acetate. The extract was washed with water and dried over magnesium sulfate. The solvent was distilled off to give an oil of diethyl 2-methyl-4-(2-nitrophenyl)-6-(2-hydroxyethyl)aminomethyl-1,4-dihydropyridine-3,5-dicarboxylate. This oil was dissolved in 95% ethanol (15 ml) and the solution was refluxed for 3 hours. Ethanol was removed from the solution to give a red oil. The oil was pulverized and recrystallized from a mixture of ethanol and diethyl ether to give an orange crystals (0.5998 g) of ethyl 2-methyl-4-(2-nitrophenyl)-5-oxo-6-(2-hydroxyethyl)-1,4,5,7-tetrahydropyrrolo-[3,4-b]pyridine-3-carboxylate. The product was further recrystallized from a mixture of ethanol and diethyl ether to give pure pale orange granules, m.p. 210° to 211° C.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-(2-hydroxyethyl)iminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.2 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=NCCO | C21H25N3O7
reactant | sodium borohydride | 115 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-(2-hydroxyethyl)aminomethyl-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)CNCCO | C21H27N3O7
